US06593330B2
Step 1: 2-Chloro-6-[3-(2-pyridinyl)propoxy]pyrazine
The title compound was prepared according to the procedure of example 50, step 1, starting from 2-pyridinepropanol (4.08 g, 29.7 mmol), K-t-BuO (3.17 g, 28.3 mmol) and 2,6-dichloropyrazine (3.69 g, 24.8 mmol). The yield of the title compound was 5.18 g (84%) and was obtained as an oil. Anal. (C12H12ClN3O) C, H, N.

reactant | 2-pyridinepropanol | 29.7 mmol, 4.08 g | N1=C(C=CC=C1)CCCO | C8H11NO
reactant | 2,6-dichloropyrazine | 24.8 mmol, 3.69 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
product | 2-Chloro-6-[3-(2-pyridinyl)propoxy]pyrazine | ClC1=NC(=CN=C1)OCCCC1=NC=CC=C1 | C12H12ClN3O
